US20010049438A1
An appropriate quantity of the desired protected PBA-containing phosphoramidite reagent was dissolved either in anhydrous acetonitrile for 1-O-(4,4′-dimethoxytrityl)-8-N-[4-dihydroxyboryl-(benzopinacol cyclic ester) benzoyl)]amino-1,3-octanediol 3-O-(2-cyanoethyl)-N,N-diisopropylamino phosphoramidite and 1-O-(4,4′-dimethoxytrityl)- 3-N-[(4-dihydroxyboryl(benzopinacol cyclic ester)benzoyl)-β-alanyl)]amino-1,2-propanediol 3-O-(2-cyanoethyl)- N,N-diisopropylamino phosphoramidite, or in 75:25 (v/v) anhydrous acetonitrile:anhydrous tetrahydrofuran for 1-O-(4,4′-dimethoxytrityl)-2-N-[(4-dihydroxyboryl-(benzopinacol cyclic ester)benzoyl)-β-alanyl)]serinol 3-O-(2-cyanoethyl)-N,N-diisopropylamino phosphoramidite, to give a final concentration of 0.1 M. This solution was placed on the DNA synthesizer in one of the extra phosphoramidite bottle positions. Four (4) PBA moieties were then added onto the 5′-end of the oligodeoxyribonucleotide using a modification of the standard coupling cycle in which the “wait time” for the coupling reaction had been extended to fifteen minutes. Again, the synthesis was carried out in the Trityl ON mode. Coupling yields for the addition of the PBA amidites to the oligodeoxyribonucleotide were estimated to be >95% from the collected trityl solutions of each cycle and from subsequent analytical high performance liquid chromatography (HPLC).

reactant | phosphoramidite | P([O-])([O-])N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | amino-1,3-octanediol 3-O-(2-cyanoethyl)-N,N-diisopropylamino phosphoramidite | C(#N)CCP(O)(N(NC(C)C)NC(C)C)OC(CC(O)N)CCCCC | C17H40N5O3P
solvent | acetonitrile | C(C)#N | C2H3N
product | serinol 3-O-(2-cyanoethyl)-N,N-diisopropylamino phosphoramidite | C(#N)CCP(O)(N(NC(C)C)NC(C)C)OC[C@H](N)CO | C12H30N5O3P
